US07297795B2
To a suspension of 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)acetamide (1.57 g, 6.06 mmol) in 200 mL of iso-propanol was added 3-aminothiophene (600 mg, 6.06 mmol). This mixture was heated to reflux and triethylorthoformate (6.5 mL, 39.1 mmol) was added dropwise. The reaction mixture was heated at reflux overnight. Additional 3-aminothiophene (214 mg, 2.16 mmol) was added and the reaction mixture was heated at reflux for 5 hours. Additional 3-aminothiophene (100 mg, 1.01 mmol) was added and the reaction mixture was heated at reflux for 2.5 hours. The mixture was allowed to cool to room temperature and the solid was collected by filtration, washed with iso-propanol to give 572 mg (26%) of 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)-3-(thien-3-ylamino)prop-2-enamide as a tan solid, mp >250° C.; MS 366.0, 368.2 (M−H)−

reactant | 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)acetamide | 6.06 mmol, 1.57 g | C(#N)CC(=O)NC1=C(C=C(C(=C1)OC)Cl)Cl | C10H8Cl2N2O2
reactant | 3-aminothiophene | 6.06 mmol, 600 mg | NC1=CSC=C1 | C4H5NS
reactant | triethylorthoformate | 39.1 mmol, 6.5 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | 3-aminothiophene | 2.16 mmol, 214 mg | NC1=CSC=C1 | C4H5NS
reactant | 3-aminothiophene | 1.01 mmol, 100 mg | NC1=CSC=C1 | C4H5NS
solvent | iso-propanol | 200 mL | C(C)(C)O | C3H8O
product | 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)-3-(thien-3-ylamino)prop-2-enamide | 572 mg, 26% | C(#N)C(C(=O)NC1=C(C=C(C(=C1)OC)Cl)Cl)=CNC1=CSC=C1 | C15H11Cl2N3O2S
